US05079260
2-Methylfluorene
A solution of 2-fluorenecarboxaldehyde (15 g, 77.1 mmol) in 250 mL of 10% solution of acetic acid in ethyl acetate was hydrogenated at 80 psi of hydrogen during 24 hours at room temperature over 20% palladium hydroxide on carbon (catalytic amount). The reaction was monitored by TLC (silica, 25% ethyl acetate in hexane). The catalyst was filtered off, evaporation of the solvents followed by recrystallization of the residual solid from ethanol:water 5:1 afforded 9.6 g (69.0%) of the product as colorless solid.

reactant | 2-fluorenecarboxaldehyde | 77.1 mmol, 15 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 2-Methylfluorene | 9.6 g, 69.0% | CC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H12
